US07452895B2
Preparation of 4-aminomethyltetrahydro-pyran-4-ol
4-Aminomethyl-tetrahydro-pyran-4-ol is prepared from 1,6-dioxa-spiro[2.5]octane. A MeOH (3.5 mL) solution of 1,6-dioxa-spiro[2.5]octane (0.19 g, 1.7 mmol) is added to concentrated aqueous NH4OH (4.3 mL) at 0° C. The reaction mixture is warmed to room temperature and stirred for 16 hours. The reaction mixture is concentrated under reduced pressure and purified by column chromatography (10% MeOH, 2% Et3N in DCM) to afford 90 mg (41%) of the desired product as a white solid.

reactant | 1,6-dioxa-spiro[2.5]octane | O1CC12CCOCC2 | C6H10O2
reactant | 1,6-dioxa-spiro[2.5]octane | 1.7 mmol, 0.19 g | O1CC12CCOCC2 | C6H10O2
reactant | NH4OH | 4.3 mL | [NH4+].[OH-]
solvent | MeOH | 3.5 mL | CO | CH4O
product | 4-aminomethyltetrahydro-pyran-4-ol | 90 mg, 41% | NCC1(CCOCC1)O | C6H13NO2
